### PR TITLE
feat: `Finpartition.attachEquiv`

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
This is descended from my original idea for #16598.

### CODE REVIEW

File: Mathlib/Data/Finset/Image.lean [hunk 1]
```diff
@@ -652,6 +652,13 @@ theorem subtype_map (p : α → Prop) [DecidablePred p] {s : Finset α} :
 theorem subtype_map_of_mem {p : α → Prop} [DecidablePred p] {s : Finset α} (h : ∀ x ∈ s, p x) :
     (s.subtype p).map (Embedding.subtype _) = s := ext <| by simpa [subtype_map] using h
 
+theorem map_subtype {p : α → Prop} [DecidablePred p] {s : Finset (Subtype p)} :
+    (s.map (Embedding.subtype _)).subtype p = s := by
```
Comment (YaelDillies) [inline Mathlib/Data/Finset/Image.lean:656]:
```suggestion
theorem subtype_map {p : α → Prop} [DecidablePred p] {s : Finset (Subtype p)} :
    (s.map (Embedding.subtype _)).subtype p = s := by
```

File: Mathlib/Order/Partition/Finpartition.lean [hunk 2]
```diff
@@ -548,6 +548,88 @@ lemma card_mod_card_parts_le : s.card % P.parts.card ≤ P.parts.card := by
...
+    fun h ↦ ⟨P.le h, (filter_true_of_mem (P.le h)).symm ▸ h⟩⟩
+
+lemma attach_detach (P : Finpartition s.attach) : P.detach.attach = P := by
+  ext p; rw [mem_attach_iff, mem_detach_iff, map_subtype, and_iff_right_iff_imp]
+  exact fun _ ↦ map_subtype_subset _
+
+/-- Equivalence between finpartitions of `s` and finpartitions of `s.attach`, the latter of which
+is always over a finite type. -/
+def attachEquiv : Finpartition s ≃ Finpartition s.attach :=
+  ⟨attach, detach, detach_attach, attach_detach⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Partition/Finpartition.lean:629]: Can you get there faster by defining
```
def Finpartition.congr (e : Iic a ≃o Iic b) : Finpartition a ≃ Finpartition b
```
?
